US09359375B2
To a solution of 2-bromo-4-fluorobenzonitrile (0.2 g, 1 mmol) in DMSO (3 mL) was added (R)-tert-butyl 1-amino-3-methoxypropan-2-ylcarbamate (0.22 g, 1.08 mmol) and DIPEA (0.267 mL, 1.5 mmol). The mixture was heated at 100° C. for 15 h, and was diluted with EtOAc and washed with 1N HCl and Sat. NaHCO3. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-(3-bromo-4-cyanophenylamino)-3-methoxypropan-2-ylcarbamate (0.3 g).

reactant | 2-bromo-4-fluorobenzonitrile | 1 mmol, 0.2 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | (R)-tert-butyl 1-amino-3-methoxypropan-2-ylcarbamate | 1.08 mmol, 0.22 g | NC[C@H](COC)NC(OC(C)(C)C)=O | C9H20N2O3
reactant | DIPEA | 1.5 mmol, 0.267 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 1-(3-bromo-4-cyanophenylamino)-3-methoxypropan-2-ylcarbamate | 0.3 g | BrC=1C=C(C=CC1C#N)NC[C@H](COC)NC(OC(C)(C)C)=O | C16H22BrN3O3
